US04777163
1-Hydroxy-2-(imidazol-4-yl)-ethane-1,1-diphosphonic acid
3 g. Phosphorous acid are added to 3.5 g. imidazol4-ylacetic acid hydrochloride (m.p. 198-200° C.) in 40 ml. chlorobenzene. The reaction mixture is stirred for 10 minutes at 110° C., cooled and 9 g. phosphorus trichloride slowly added dropwise thereto. The reaction mixture is heated for 16 hours to 110° C., cooled, the chlorobenzene is decanted off from an orange-coloured syrup and the residue is mixed with 50 ml. 6N hydrochloric acid. The suspension is heated under reflux for 5 hours, cooled, mixed with charcoal and filtered off with suction. The filtrate is evaporated, dried and boiled up with acetone for 2 hours. The residue (4.3 g.) is dissolved in water, the solution is adjusted with 2N aqueous sodium hydroxide solution to a pH of 5, mixed with methanol and the precipitate obtained is filtered off with suction. There are obtained 1.2 g. (about 16.9% of theory) of the desired product; m.p.>290° C. The compound is obtained as the monosodium salt containing 2 moles of water of crystallisation (Mrel =0.37).

reactant | Phosphorous acid | P(O)(O)O | H3O3P
reactant | imidazol4-ylacetic acid hydrochloride | Cl.N1C=NC(=C1)CC(=O)O
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Hydroxy-2-(imidazol-4-yl)-ethane-1,1-diphosphonic acid | OC(CC=1N=CNC1)(P(O)(=O)O)P(O)(=O)O | C5H10N2O7P2
